US04348404
4,5-Bis(4-methoxyphenyl)-α,α-di(trifluoromethyl)-1H-imidazole-2-methanamine
A solution of 10.0 g (28.4 mmoles) of 1-(α-ethoxyethyl)-4,5-bis-(4-methoxyphenyl)-1H-imidazole and 3.9 g of tetramethylethylenediamine in 150 ml THF was cooled to -78° C. with a dry-ice acetone bath, and a solution of 30 ml of of 1.6 M butyl lithium in hexane was then added dropwise. After stirring for 15 minutes, 11.5 g (48.5 mmoles) of [1,1-di(trifluoromethyl)methyleneamino]trimethylsilane [R. F. Swindell et al., Inorganic Chemistry, 11, #2, 242 (1972)] was added dropwise, and the reaction mixture was then allowed to warm to room temperature. A solution of 10% aqueous sodium bicarbonate (100 ml) was added dropwise and the organic layer was separated and concentrated in vacuo. The residue was stirred with a mixture of 200 ml of ethanol and 100 ml 2 M aqueous HCl overnight. The ethanol was evaporated under vacuum and the aqueous phase was extracted with ether. The combined ether extracts were washed with water, dried and concentrated to give 4.6 g (36%) of crude 4,5-bis(4-methoxyphenyl-α,α-di(trifluoromethyl)-1H-imidazole-2-methanamine. The residue was chromatographed on silica gel eluting with chloroform to give, after recrystallization from methylcyclohexane, the product as colorless crystals, m.p. 127°-128.5° C.

reactant | 1-(α-ethoxyethyl)-4,5-bis-(4-methoxyphenyl)-1H-imidazole | 28.4 mmoles, 10.0 g | C(C)OC(C)N1C=NC(=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C21H24N2O3
reactant | tetramethylethylenediamine | 3.9 g | CN(CCN(C)C)C | C6H16N2
reactant | butyl lithium | 1.6 M | C(CCC)[Li]
reactant | [1,1-di(trifluoromethyl)methyleneamino]trimethylsilane | 48.5 mmoles, 11.5 g | FC(C(C(F)(F)F)=N[Si](C)(C)C)(F)F | C6H9F6NSi
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
reactant | 4-methoxyphenyl-α,α-di(trifluoromethyl)-1H-imidazole-2-methanamine | COC1=CC=C(C=C1)N1C(=NC=C1)C(N)(C(F)(F)F)C(F)(F)F | C13H11F6N3O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4,5-Bis(4-methoxyphenyl)-α,α-di(trifluoromethyl)-1H-imidazole-2-methanamine | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)C(N)(C(F)(F)F)C(F)(F)F | C20H17F6N3O2
